US03965101
F. 6H-Pyrimido[1,2-c] [1,3,5]benzoxadiazepine, hydrochloride
To a solution of 1.0 g of 6H-pyrimido[1,2-c] [1,3,5]-benzoxadiazepine in 20 ml of 2-propanol is added 5.0 ml of 4.2N 2-propanolic hydrogen chloride. To the clear solution is added anhydrous ether until a turbidity forms. The pale yellow crystalline solid is filtered and recrystallized from acetonitrile to give about 1.0 g of the title compound.

reactant | 6H-pyrimido[1,2-c] [1,3,5]-benzoxadiazepine | 1.0 g | N1=CC=CN2COC3=C(N=C21)C=CC=C3 | C11H9N3O
reactant | hydrogen chloride | 4.2N, 5.0 ml | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 6H-Pyrimido[1,2-c] [1,3,5]benzoxadiazepine, hydrochloride | about 1.0 g | Cl.N1=CC=CN2COC3=C(N=C21)C=CC=C3 | InChI=1S/C11H9N3O.ClH/c1-2-5-10-9(4-1)13-11-12-6-3-7-14(11)8-15-10;/h1-7H,8H2;1H
